US07163939B2
6-(allyloxy)-2-pyrazinamine
A mixture of allyl alcohol (0.21 mL, 3.08 mmol) in dioxane (4 mL) was treated with NaH (60%, 3.08 mmol), stirred for 30 minutes, treated with 2-amino-6-chloropyrazine (200 mg, 1.54 mmol), heated to 140° C. in a Smith Synthesizer for 2200 seconds, and filtered. The filtrate was concentrated and purified by flash column chromatography eluting with hexanes/ethyl acetate (2:1) to provide the desired product (133 mg, 57%). MS (DCI/NH3) m/z 152.0 (M+H)+; 1H NMR (500 MHz, CD2Cl2) δ 4.75 (m, 2H), 5.24 (m, 1H), 5.37 (m, 1H), 6.05 (m, 1H), 7.50 (s, 1H), 7.53 (s, 1H).

reactant | allyl alcohol | 3.08 mmol, 0.21 mL | C(C=C)O | C3H6O
reactant | NaH | 3.08 mmol | [H-].[Na+]
reactant | 2-amino-6-chloropyrazine | 1.54 mmol, 200 mg | NC1=NC(=CN=C1)Cl | C4H4ClN3
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 6-(allyloxy)-2-pyrazinamine | 133 mg, 57% | C(C=C)OC1=CN=CC(=N1)N | C7H9N3O
